Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Zithromax Z-Pak
 
Attending: ___.
 
Chief Complaint:
Right eye decreased visual acuity
 
Major Surgical or Invasive Procedure:
No

 
History of Present Illness:
Mr. ___ is a ___ year old male with DM2, HTN, HLD and h/o
idiopathic ___ ___ who presents with partial vision loss for
three weeks. He was playing golf when he realized he had trouble
tracking his ball on the right. He closed his left eye and
noticed a grey crescent shape obscuring his vision in the right
upper quadrant, resolved when closing the right eye. He reported
mild eye pain that first day, but none since. Vision loss has
been constant or improving since. No headache. Denies 
dysarthria,
aphasia, confusion, weakness, numbness. Reports longstanding
balance problems which he attributes to his peripheral 
neuropathy
___ DM. Scheduled ophthalmology appointment for this, concern 
for
retinal artery occlusion, sent to ___

In the ED, evaluated by ophtho: 
hemiretinal inferior arteriolar occlusion of the right eye with
severe attenuation of the inferior retinal
arterioles and presence of an arteriolar plaque on the optic
nerve head. However, exam does not reveal any significant 
retinal
whitening (though patient does have a relatively blonde fundus),
nor a cherry-red spot.

Not a code stroke
Time/Date the patient was last known well: 3 weeks ago
I was not present during the CT scanning as the patient was not 
a
code stroke

___ Stroke Scale Score:0

t-PA administered: 
[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: NIHSS 0, LKW 3
weeks ago

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: retinal artery, no
LVO, LKW 3 weeks ago

NIHSS performed within 6 hours of presentation at: ___
NIHSS Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
 
Past Medical History:
hypercholesterolemia
DM 2
 
Social History:
___
Family History:
Sister with stroke in ___
 
Physical Exam:
Physical exam at the day of admission ___

Vitals reviewe in ED dash
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac:  warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Right ptosis. EOMI
without nystagmus. Normal saccades. VFF to confrontation. Visual
acuity ___ bilaterally. Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch  vibration, or
proprioception throughout. Reduced temperature in the feet,
unable to distinguish pinprick in feet L>R. No extinction to 
DSS.
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: Intention tremor bilaterally L>R. No dysmetria.
Some trouble with HKS.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Difficulty with tandem gait 

Physical exam at the day of discharge ___

Vitals reviewe in ED dash
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac:  warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Right ptosis. EOMI
without nystagmus. Normal saccades. VFF to confrontation. Right 
upper quadrant decreased vision acuity, able to identify finger 
wiggling.  Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch  vibration, or
proprioception throughout. Reduced temperature in the feet,
unable to distinguish pinprick in feet L>R. No extinction to 
DSS.
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: Intention tremor bilaterally L>R. No dysmetria.
Some trouble with HKS.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Difficulty with tandem gait 

 
Pertinent Results:
___ 06:25AM BLOOD WBC-6.6 RBC-3.92* Hgb-12.0* Hct-35.5* 
MCV-91 MCH-30.6 MCHC-33.8 RDW-12.5 RDWSD-40.5 Plt ___
___ 04:16PM BLOOD WBC-7.6 RBC-3.99* Hgb-12.1* Hct-35.8* 
MCV-90 MCH-30.3 MCHC-33.8 RDW-12.4 RDWSD-40.5 Plt ___
___ 04:16PM BLOOD Neuts-53.6 ___ Monos-9.4 Eos-2.1 
Baso-0.8 Im ___ AbsNeut-4.09 AbsLymp-2.57 AbsMono-0.72 
AbsEos-0.16 AbsBaso-0.06
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD ___ PTT-31.5 ___
___ 04:16PM BLOOD Plt ___
___ 04:16PM BLOOD ___ PTT-30.8 ___
___ 06:25AM BLOOD Glucose-208* UreaN-20 Creat-1.0 Na-141 
K-4.4 Cl-103 HCO3-26 AnGap-12
___ 04:16PM BLOOD Glucose-190* UreaN-21* Creat-1.1 Na-139 
K-4.1 Cl-102 HCO3-24 AnGap-13
___ 06:25AM BLOOD ALT-26 AST-26 AlkPhos-39* TotBili-0.4
___ 04:16PM BLOOD ALT-30 AST-32 AlkPhos-41 TotBili-0.3
___ 06:25AM BLOOD Calcium-9.4 Phos-3.0 Mg-1.6 Cholest-161
___ 04:16PM BLOOD Albumin-4.6
___ 06:25AM BLOOD %HbA1c-9.3* eAG-220*
___ 06:25AM BLOOD Triglyc-208* HDL-36* CHOL/HD-4.5 
LDLcalc-83
___ 04:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:25AM BLOOD TSH-2.4
___ 04:16PM BLOOD CRP-2.7
___ 04:16PM BLOOD GreenHd-HOLD
___ 06:25AM BLOOD
___ 04:16PM BLOOD
___ 04:24PM BLOOD SED RATE-Test      
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with DM2, HTN, HLD and h/o 
perimesencephalic SAH in ___ who presented with painless right 
monocular vision loss 3 weeks ago and admitted for stroke 
work-up. 
He reported sudden onset decreased vision in the upper quadrant 
of right eye. On dilated eye exam by optho there was no retinal 
whitening or cherry red spot but inferior arcade arterioles 
severely attenuated, presence of plaque in inferior arteriole on 
optic nerve head was seen. The remainder of the neurologic exam 
was normal. CTA showed atheromatous 30% stenosis of the 
bilateral proximal internal carotid arteries by NASCET criteria 
and moderate stenosis at the origin of the left vertebral 
artery, otherwise patent bilateral cervical carotid and 
vertebral arteries without evidence of stenosis, occlusion, or 
dissection, paranasal sinus mucosal thickening. MRI showed no 
areas of ischemia. TTE showed no definite structural cardiac 
source of embolism identified. Normal left ventricular wall 
thickness and left ventricular cavity sizes and regional/global 
biventricular
systolic function. Mild right ventricular dilatation. Stroke 
risk factors: A1c 9.3, LDL 83. ESR/CRP was normal. Etiology was 
felt to be atheroembolic. Aspirin 81 mg daily was started after 
approval by neurosurgery given prior non-aneurysmal SAH. 
Atorvastatin was increased to 80 mg daily. His cardiologist 
office was contacted for report of loop recorder but had not 
sent report at time of discharge. Will follow-up ILR recordings 
to see if patient has atrial fibrillation. If he does have afib, 
would recommend discontinuation of aspirin 81 mg daily and 
initiation of apixaban 5 mg bid.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Fenofibrate 200 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Lisinopril 5 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. GlipiZIDE XL 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
3.  Atenolol 50 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  Fenofibrate 200 mg PO DAILY  
6.  GlipiZIDE XL 5 mg PO DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right retinal artery branch occlusion

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of decreased visual right 
eye acuity resulting from right retinal artery branch occlusion, 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are - diabetes
- high cholesterol
- high blood pressure

We are changing your medications as follows:
- start aspirin 81 mg daily
- increase atorvastatin to 80 mg daily 

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___